US04162328
In an analogous manner to that described in Example 5, from 2-butyn-1-ol and cyclopropane carboxylic acid 12-bromododecyl ester there is obtained cyclopropane carboxylic acid 12-(2-butynyloxy)dodecyl ester of melting point 38°-40° C.

reactant | 2-butyn-1-ol | C(C#CC)O | C4H6O
reactant | cyclopropane carboxylic acid 12-bromododecyl ester | BrCCCCCCCCCCCCOC(=O)C1CC1 | C16H29BrO2
product | cyclopropane carboxylic acid 12-(2-butynyloxy)dodecyl ester | C(C#CC)OCCCCCCCCCCCCOC(=O)C1CC1 | C20H34O3
